US04892882
To a solution of 8.01 g of 5-chloromethyl-3-hydroxyisoxazole in 50 ml of benzene were added 10 g of sulphuryl chloride, and then the mixture was refluxed for 10 hours. At the end of this time, the solvent and the excess sulphuryl chloride were distilled off from the reaction mixture, and the residue was dissolved in 50 ml of diethyl ether and washed five times, each time with 20 ml of water. The washed diethyl ether solution was dried over anhydrous sodium sulphate, the solvent was removed by distillation, and the residue was extracted three times, each time with 30 ml of hot hexane. The hexane was distilled off from the extract and the residue was recrystallized from carbon tetrachloride, to give 4-chloro-5-chloromethyl-3-hydroxyisoxazole in the form of colourless crystals melting at 116°-118° C.

reactant | 5-chloromethyl-3-hydroxyisoxazole | 8.01 g | ClCC1=CC(=NO1)O | C4H4ClNO2
reactant | sulphuryl chloride | 10 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 4-chloro-5-chloromethyl-3-hydroxyisoxazole | ClC=1C(=NOC1CCl)O | C4H3Cl2NO2
